US05780642
Potassium phthalimide (92.5 g) was added in six portions over 4 hours to a boiling solution of 1,5-dibromopentane (230 g) in acetone (670 ml). The mixture was boiled under reflux for 24 hours, then cooled and filtered. The filtrate was evaporated to dryness and the residue dissolved in petroleum ether, b.p. 60°-80° C./ethyl acetate (1:1) and the solution filtered. The filtrate was evaporated to dryness and the residue washed with several portions of petroleum ether, b.p. 60°-80° C. to remove excess dibromopentane. The remaining oil was dried under vacuum at 50° C. The petrol washings were evaporated to dryness and distilled under vacuum to give recovered dibromopentane and a second fraction b.p. 86°-120° C. at 17 mbar. This fraction solidified on cooling and scratching. A little of this solid was used to seed the remaining oil and the combined solids were recrystallised from absolute ethanol (300 ml) to give N-(5-bromopentyl)phthalimide, m.p. 62°-63° C.

reactant | Potassium phthalimide | 92.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1,5-dibromopentane | 230 g | BrCCCCCBr | C5H10Br2
solvent | acetone | 670 ml | CC(=O)C | C3H6O
product | N-(5-bromopentyl)phthalimide | BrCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C13H14BrNO2
